US07632832B2
Step C. Methyl 2-oxo-1-[1-({[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]amino}carbonyl)piperidin-4-yl]-2,3-dihydro-1H-imidazole-4-carboxylate
Dess-Martin periodinane (126 mg, 0.298 mmol) was added to a solution of methyl N-({[1-({[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]amino}carbonyl)piperidin-4-yl]amino}carbonyl)serinate (75 mg, 0.124 mmol) in dichloromethane (15 mL) at 0° C. The reaction warmed to ambient temperature, stirred for 4 h, and was quenched with a 1:1 mixture of saturated sodium thiosulfate and sodium bicarbonate solution. The mixture was extracted with dichloromethane (2×) and the combined organic extracts were dried over sodium sulfate, filtered, concentrated. Purification by silica gel chromatography (100% dichloromethane→8% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound (55 mg). MS 585.4 (M+1)

reactant | Dess-Martin periodinane | 0.298 mmol, 126 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | methyl N-({[1-({[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]amino}carbonyl)piperidin-4-yl]amino}carbonyl)serinate | 0.124 mmol, 75 mg | O=C1N(C2=C(C(=N[C@H]1NC(=O)N1CCC(CC1)NC(=O)N[C@@H](CO)C(=O)OC)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F | C28H31F3N6O6
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | Methyl 2-oxo-1-[1-({[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]amino}carbonyl)piperidin-4-yl]-2,3-dihydro-1H-imidazole-4-carboxylate | 55 mg | O=C1N(C=C(N1)C(=O)OC)C1CCN(CC1)C(=O)N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C28H27F3N6O5
